US05589476
1.1.2. 5,6-Dihydro-4H-imidazo[4,5,1-ij]quinol-2(1H)-one
13 g (0.216 mol) of urea are added to 32 g (0.216 mol) of 1,2,3,4-tetrahydroquinolin-8-amine and the mixture is heated for 3 hours at 180° C. Boiling water is added, the reaction mixture is allowed to cool, ether is added and the mixture is stirred for 2 hours. The reaction mixture is then filtered, the precipitate is sucked dry, washed successively with water and ether and dried under vacuum. There are obtained 19 g of product which is recrystallized from isopropanol. The residue is purified by chromatography on a column of silica gel, the eluent being a dichloromethane/methanol (95/5) mixture. There are obtained 7 g of product which is used as is in the following stage.

reactant | urea | 0.216 mol, 13 g | NC(=O)N | CH4N2O
reactant | 1,2,3,4-tetrahydroquinolin-8-amine | 0.216 mol, 32 g | N1CCCC2=CC=CC(=C12)N | C9H12N2
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 5,6-Dihydro-4H-imidazo[4,5,1-ij]quinol-2(1H)-one | 19 g | N1C(N2CCCC3=CC=CC1=C23)=O | C10H10N2O
